US04578395
To a solution of 1.70 g of 2-fluoro-3-nitrobenzaldehyde in 10 ml of isopropanol were added 1.15 g of methyl 3-aminocrotonate and 2.10 g of 3-chloro-2,2-dimethylpropyl acetoacetate. The mixture was refluxed for 5 hours. Solvent was distilled off under reduced presoure to leave a residue. The residue was chromatographed on silica gel to give 2.09 g of 3-chloro-2,2-dimethylpropyl methyl 2,6-dimethyl-4-(2-fluoro-3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | 2-fluoro-3-nitrobenzaldehyde | 1.70 g | FC1=C(C=O)C=CC=C1[N+](=O)[O-] | C7H4FNO3
reactant | methyl 3-aminocrotonate | 1.15 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | 3-chloro-2,2-dimethylpropyl acetoacetate | 2.10 g | C(CC(=O)C)(=O)OCC(CCl)(C)C | C9H15ClO3
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 3-chloro-2,2-dimethylpropyl methyl 2,6-dimethyl-4-(2-fluoro-3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 2.09 g | CC=1NC(=C(C(C1C(=O)OCC(CCl)(C)C)C1=C(C(=CC=C1)[N+](=O)[O-])F)C(=O)OC)C | C21H24ClFN2O6
